Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
cardiac catheterization with ___ x2 (LAD and OM1)

 
History of Present Illness:
___ PMH of HTN, HL, and smoking who presents with chest pain.  
 Per the patient has been having ___ weeks of left sided chest 
pain. Notes it is worse with exertion. Improves with rest. Is 
not ordered for nitro. Pain radiates down the arms. Occasionally 
has non-exertional chest pain, also diaphoresis. Went to see PCP 
who noted new t-wave inversions. Was scheduled to have a stress 
test and follow up with his cardiologist this coming week. His 
cardiologist was reviewing patient charts and noted the EKG 
changes and recommended he present to the emergency department.  

 In the ED initial vitals were: 97.8 122 167/96 18 96% RA  
 EKG: sinus tachycardia 110, normal intervals, diffuse T wave 
inversions, slight ST depressions  
 Labs/studies notable for: Normal CBC. Normal chemistries. 
troponin <0.01 x1. Normal UA. chest xray notable for possible 
mild central pulmonary vascular engorgement without overt 
pulmonary edema.  
 Patient was given: full dose aspirin, heparin gtt  
 Vitals on transfer: 98.2 112 126/77 20 98% RA  
 On the floor, he had no complaints.  
 ROS: On review of systems, denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. Denies recent fevers, chills or rigors. 
Denies exertional buttock or calf pain. All of the other review 
of systems were negative. Cardiac review of systems is notable 
for absence of chest pain, dyspnea on exertion, paroxysmal 
nocturnal dyspnea, orthopnea, ankle edema, palpitations, syncope 
or presyncope.  

 
Past Medical History:
HTN  
 Hyperlipidemia  
 Smoking  
 Obesity  
 Kidney stones  
 Prostate cancer  
 Osteoarthritis 

 
Social History:
___
Family History:
None
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
 VS: 98 145/84 115 19 100%RA  
 Weight: 95kg  
 GENERAL: NAD. Oriented x3. Mood, affect appropriate.  
 HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

 NECK: Supple with no elevated JVP.  
 CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. tachycardic, normal S1, S2. No murmurs. No thrills, lifts. 
 
 LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
 ABDOMEN: Soft, NTND. No HSM or tenderness.  
 EXTREMITIES: No c/c/e. No femoral bruits.  
 SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
 PULSES: Distal pulses palpable and symmetric  

DISCHARGE PHYSICAL EXAM:  
 VS: 98 130-141/80 ___ 18 96RA
 Weight: 95kg  
 GENERAL: NAD. Oriented x3. Mood, affect appropriate.  
 HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

 NECK: Supple with no elevated JVP.  
 CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. tachycardic, normal S1, S2. No murmurs. No thrills, lifts. 
 
 LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
 ABDOMEN: Soft, NTND. No HSM or tenderness.  
 EXTREMITIES: No c/c/e. No femoral bruits.  
 SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
 PULSES: Distal pulses palpable and symmetric 
 
Pertinent Results:
___ 09:04PM BLOOD WBC-8.5 RBC-5.24 Hgb-15.9 Hct-47.1 MCV-90 
MCH-30.3 MCHC-33.8 RDW-13.2 RDWSD-43.2 Plt ___
___ 09:04PM BLOOD Neuts-61.4 ___ Monos-7.2 Eos-1.2 
Baso-0.6 Im ___ AbsNeut-5.24 AbsLymp-2.48 AbsMono-0.61 
AbsEos-0.10 AbsBaso-0.05
___ 09:04PM BLOOD ___ PTT-34.4 ___
___ 09:04PM BLOOD Plt ___
___ 05:30AM BLOOD CK(CPK)-68
___ 09:04PM BLOOD Calcium-9.5 Phos-3.3 Mg-2.0
___ 09:15PM BLOOD Glucose-113* Na-138 K-3.8 Cl-107 
calHCO3-22
___ 09:15PM BLOOD Hgb-16.5 calcHCT-50

___ 09:04PM BLOOD cTropnT-<0.01
___ 05:30AM BLOOD CK-MB-2 cTropnT-<0.01
___ 09:00PM BLOOD cTropnT-<0.01
___ 05:06AM BLOOD CK-MB-4 cTropnT-0.03*

___ 05:06AM BLOOD Hct-44.7 Plt ___
___ 05:06AM BLOOD Plt ___
___ 05:06AM BLOOD UreaN-21* Creat-1.1 Na-135 K-4.5 Cl-104

EKG: sinus tachycardia to 110, TW inversions in V3-V6, poor R 
wave progression

CXR:
Possible mild central pulmonary vascular engorgement without 
overt pulmonary edema.  No focal consolidation to suggest 
pneumonia. 

CARDIAC CATH: 
2 vessel CAD.
Successful PTCA/stent of LAD and OM1

Ostial LAD pre-dilated using a 2.5mm balloon. 3.0mm x 12mm 
Promus Premier (drug eluting) stent
deployed, and post-dilated throughout at high pressure using a 
3.5 mm balloon. Excellent final result with
0% residual stenosis, no dissection, and brisk flow.
Wire then passed into lower pole branch of OM1 and stenosis 
pre-dilated using a 2.0 mm balloon.
2.75mm x 16mm Promus Premier stent then deployed at 16 atm. 
Excellent final result with 0% residual
stenosis, no dissection, and brisk flow.

 
Brief Hospital Course:
___ PMH of HTN, HL, and smoking who presented with L sided chest 
pain radiating into the L arm, trops negative, EKG with  sinus 
tachycardia to 110, TW inversions in V3-V6, poor R wave 
progression. Patient was given full dose ASA, nitro, started on 
hep gtt with goal PTT 60-79. Interventional cardiology was 
consulted and the decision was made to undergo cardiac 
catheterization for concerns of ischemic disease.  Cardiac cath 
showed:

The LMCA is normal, but is short.
* Left Anterior Descending
The LAD has a 90% hazy ostial stenosis. 30% stenosis in the 
distal segment.
* Circumflex
The Circumflex has mild luminal irregularities.
The ___ Marginal is a large branching stenosis with 30% ___ 
stenosis, and tubular 90% stenosis in the
lower pole branch..
* Right Coronary Artery
The RCA has minimal luminal irregularities.
DES x2 were placed in the ___ LAD and OM1. Patient had R radial 
access with band in place post-cath. Patient tolerated the 
procedure well without complication. Hep gtt was stopped post 
cath, patient was Plavix loaded. He will be on ASA and Plavix 
for at least 12mos. 

Post-procedure, patient did well. His incision was c/d/I without 
evidence of hematoma or aneurysm. Pulses and sensation were 
intact. He was walking independently without issue, voiding 
well, and tolerating a full diet. He was discharged home and 
given detailed instructions regarding changes to his medication 
regimen and instructions to contact his cardiologist and PCP for 
close follow up. 

TRANSITIONAL ISSUES:
# underwent left heart catheterization s/p ___ x2 (LAD 
and OM1). R radial access.
# started on Plavix; should continue to take Plavix for at least 
12 months
# Home Simvastatin changed to atorvastatin 80mg daily
# Should continue home ASA 81, lisinopril, and metoprolol. Doses 
unchanged.
# written for SL nitro PRN chest pain
# Patient should refrain from hot tub use for ___ weeks after 
cardiac cath
# Code: Full
# Contact: ___ (wife) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 50 mg PO DAILY 
2. Lisinopril 20 mg PO DAILY 
3. Simvastatin 20 mg PO QPM 
4. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Lisinopril 20 mg PO DAILY 
3. Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth every night Disp 
#*30 Tablet Refills:*0
4. Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*45 
Tablet Refills:*0
5. Metoprolol Succinate XL 50 mg PO DAILY 
6. Nitroglycerin SL 0.4 mg SL Q5MIN:PRN chest pain 
RX *nitroglycerin [Nitrostat] 0.4 mg 1 tablet(s) sublingually 
every 5 mins up to 3 times Disp #*25 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unstable Angina
Coronary Artery Disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___. 

You were admitted because you had a chest pain and changes on 
your heart EKG that suggested damage to the heart. You underwent 
cardiac catheterization which revealed narrowing of two vessels 
that provide blood to your heart. You had 2 stents placed. 

It is very important to take all of your heart medications as 
they help to keep your stents open. Please take them every day 
as prescribed and fill your prescriptions on the day of 
discharge. 

You are now on aspirin. You need to take aspirin everyday. If 
you stop taking aspirin, you risk the stent clotting and death. 
Do not stop taking aspirin unless you are told by your 
cardiologist. No other doctor can tell you to stop taking this 
medication. 

You are now on Plavix (also known as clopidogrel). This 
medication helps keep your stent open. Do not stop taking plavix 
unless you are told by your cardiologist. No other doctor can 
tell you to stop taking this medication. 

Please refrain from hot tubs for ___ weeks after your procedure. 
You may wash your right wrist incision with small amount of soap 
and water, but please do not let it sit in stagnant water for 2 
weeks.

We wish you all the best, 

Your ___ Cardiology team

 
Followup Instructions:
___